US04630896
A mixture of 5.6 g of trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarboxaldehyde, 10.6 g of p-cyanobenzyl-triphenylphosphonium bromide and 200 ml of dioxan was treated with 14.5 g of powdered potassium carbonate and the mixture was heated to boiling for 72 hours. After cooling, the mixture was filtered, the filtrate was concentrated and the residue was chromatographed on silica gel with hexane/diethyl ether (vol. 4:1), thereby obtaining 6.0 g of p-[2-[trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexyl]vinyl]benzonitrile.

reactant | trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexanecarboxaldehyde | 5.6 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C=O | C18H32O
reactant | p-cyanobenzyl-triphenylphosphonium bromide | 10.6 g | [Br-].C(#N)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | p-[2-[trans-4-[2-(trans-4-propylcyclohexyl)ethyl]cyclohexyl]vinyl]benzonitrile | 6.0 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C#N)C=C1 | C26H37N
